US05116855
A mixture of 1.33 g (0.01 mol) of rhodanine, 2.48 g (0.01 mol) of ethyl 2-(3-oxo-1-butenyl]phenoxyacetate, 0.77 g (0.01 mol) of ammonium acetate and 20 ml of toluene was heated under reflux for 3 hours. After cooling, 100 ml of water were added to the reaction mixture which was extracted with ethyl acetate (3×100 ml). The ethyl acetate layer was washed twice with water and once with a saturated saline solution, dried and concentrated under reduced pressure to give orange crystals. The crystals were purified by silica gel column chromatography (eluent, chloroform : ethyl acetate) to obtain ethyl 2-[3-(4-oxo-2-thioxo-5-thiazolinylidene)-1-butenyl]phenoxyacetate (35.8% yield) from the first eluate.

reactant | rhodanine | 0.01 mol, 1.33 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | ethyl 2-(3-oxo-1-butenyl]phenoxyacetate | 0.01 mol, 2.48 g | O=C(C=CC1=C(OCC(=O)OCC)C=CC=C1)C | C14H16O4
reactant | ammonium acetate | 0.01 mol, 0.77 g | C(C)(=O)[O-].[NH4+]
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | ethyl 2-[3-(4-oxo-2-thioxo-5-thiazolinylidene)-1-butenyl]phenoxyacetate | 35.8% yield | O=C1NC(S(=C1)=C(C=CC1=C(OCC(=O)OCC)C=CC=C1)C)=S | C17H19NO4S2
